US05432267
Preparation of 2-Methoxycarbonyl-1(methoxycarbonylmethyl)ethyl 3,4,6-Tri-O-acetyl-2-deoxy-2-tetradecanoylamino-β-D-glucopyranoside
2-Methoxycarbonyl-1-(methoxycarbonylmethyl)ethyl 3,4,6-tri-O-acetyl-2-deoxy-2-(2,2,2-trichloroethoxycarbonylamino)-β-D-glucopyranoside was reacted with tetradecanoic acid in the same manner as in Example 8, Step 1 to obtain the titled compound as a white waxy solid.

reactant | 2-Methoxycarbonyl-1-(methoxycarbonylmethyl)ethyl 3,4,6-tri-O-acetyl-2-deoxy-2-(2,2,2-trichloroethoxycarbonylamino)-β-D-glucopyranoside | C(C)(=O)O[C@@H]1[C@H]([C@H](OC(CC(=O)OC)CC(=O)OC)O[C@@H]([C@H]1OC(C)=O)COC(C)=O)NC(=O)OCC(Cl)(Cl)Cl | C22H30Cl3NO14
reactant | tetradecanoic acid | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
product | 2-Methoxycarbonyl-1(methoxycarbonylmethyl)ethyl 3,4,6-Tri-O-acetyl-2-deoxy-2-tetradecanoylamino-β-D-glucopyranoside | C(C)(=O)O[C@@H]1[C@H]([C@H](OC(CC(=O)OC)CC(=O)OC)O[C@@H]([C@H]1OC(C)=O)COC(C)=O)NC(CCCCCCCCCCCCC)=O | C33H55NO13
